US05112971
Example 13 was repeated, provided that the compounds described in 1st, 2nd and 3rd columns of the following table were used in place of the 1-amino-2-carboxy-4-(3'-amino-4'-sulfophenylthio)anthraquinone, cyanuric chloride and 1-aminobenzene-3-8-sulfatoethylsulfone, respectively, thereby obtaining a corresponding anthraquinone compound. A color shade obtained by dyeing cotton with the anthraquinone compound is as shown in a 4th column of the table.

reactant | 1-amino-2-carboxy-4-(3'-amino-4'-sulfophenylthio)anthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)SC1=CC(=C(C=C1)S(=O)(=O)O)N)C(=O)O | C21H14N2O7S2
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
